US06143764
4-t-Butylphenyl 4-methoxyphenyl ketone
To commercially available nitromethane (5 ml) were added commercially available anisole (541 mg), commercially available 4-t-butylbenzoyl chloride (983 mg) and commercially available scandium(III) trifluoromethanesulfonate (492 mg), and the admixture was stirred at 60° C. for 21 hours. The reaction mixture was partitioned between water and chloroform, and the chloroform layer was then dried with anhydrous magnesium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by column chromatography on silica gel eluting with hexane/acetone to obtain 862 mg of the title compound (yield: 64%).

reactant | anisole | 541 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-t-butylbenzoyl chloride | 983 mg | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
catalyst | scandium(III) trifluoromethanesulfonate | 492 mg | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
product | 4-t-Butylphenyl 4-methoxyphenyl ketone | 862 mg, yield: 64% | COC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)C(C)(C)C | C18H20O2
